US06194409B1
109e. 1-[2-(R)-Isocyanato-3-(4-methoxyphenyl)-propionyl]-pyrrolidin-2-(S)-carboxylic acid benzyl ester
1-[2-(R)-Amino-3-(4-methoxyphenyl)-propionyl]-pyrrolidin-2-(S)-carboxylic acid benzyl ester hydrochloride (2.8 g) was dissolved in 30 mL of dichloromethane followed by addition of 30 mL of NaHCO3 solution (1M) under vigorous stirring. Triphosgene (0.6 g) in 6 mL of dichloromethane was added at 0° C. and the mixture was kept stirring for 0.25 h. The organic layer was separated and the solvent removeed in vacuo to yield 1.20 g (98%) of the title compound as a yellow oil. (+)-APCI-MS: 409 (MH+).

reactant | 1-[2-(R)-Amino-3-(4-methoxyphenyl)-propionyl]-pyrrolidin-2-(S)-carboxylic acid benzyl ester hydrochloride | 2.8 g | Cl.C(C1=CC=CC=C1)OC(=O)[C@H]1N(CCC1)C([C@@H](CC1=CC=C(C=C1)OC)N)=O
reactant | NaHCO3 | 1M, 30 mL | C(=O)(O)[O-].[Na+]
reactant | Triphosgene | 0.6 g | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 6 mL | ClCCl | CH2Cl2
product | 1-[2-(R)-Isocyanato-3-(4-methoxyphenyl)-propionyl]-pyrrolidin-2-(S)-carboxylic acid benzyl ester | 1.20 g, 98% | C(C1=CC=CC=C1)OC(=O)[C@H]1N(CCC1)C([C@@H](CC1=CC=C(C=C1)OC)N=C=O)=O | C23H24N2O5
